US06376672B1
To an ice-cold solution of 1.7 g (9.03 mmol) of 3,5-difluoro-2-methoxy-benzaldehyde in 10 ml of dry tetrahydrofuran was added under an argon atmosphere 1 ml of borane dimethylsulfide complex. The reaction mixture was warmed up and stirred for 24 hours at room temperature. Thereupon, the mixture was again cooled to 0° C. and 5 ml of methanol were added dropwise within 30 minutes. Subsequently, the solvent was distilled and the crude product was purified by chromatography on silica gel with a 1:1 mixture of diethylether and dichloromethane as the eluent. There were obtained 0.89 g (56% of theory) of (3,5-difluoro-2-methoxy-phenyl)-methanol as a colorless liquid; MS: 174 (M)+.

reactant | 3,5-difluoro-2-methoxy-benzaldehyde | 9.03 mmol, 1.7 g | FC=1C(=C(C=O)C=C(C1)F)OC | C8H6F2O2
reactant | methanol | 5 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (3,5-difluoro-2-methoxy-phenyl)-methanol | 0.89 g, 56% | FC=1C(=C(C=C(C1)F)CO)OC | C8H8F2O2
